US20010000513A1
Step (a) Preparation of 4-(4′-Methoxy-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester
In a manner similar to Example 12, Step (b), (4-methoxyphenyl)boronic acid (0.913 g, 0.00601 mol) was allowed to react with 4-(4-bromo-phenyl)4-oxo-butyric acid, methyl ester (1.356 g, 0.00500 mol) in the presence of tetrakis(triphenylphosphine)palladium(0) (0.173 g, 0.000150 mol) and 2.0 M aqueous sodium carbonate (5.0 mL, 0.010 mol) in toluene (10 mL) to give, after chromatography on silica gel (270 g, 230-400 mesh), eluting with dichloromethane (15×250 mL); dichloromethane-methanol (100:1, 19×225 mL; 50:1, 5×225 mL), 1.386 g of 4-(4′-methoxy-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a white solid; mp 96.0-100.5° C.

reactant | (4-methoxyphenyl)boronic acid | 0.00601 mol, 0.913 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-(4-bromo-phenyl)4-oxo-butyric acid, methyl ester | 0.00500 mol, 1.356 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | sodium carbonate | 0.010 mol, 2.0 M, 5.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.000150 mol, 0.173 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4′-Methoxy-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C18H18O4
